US05041448
A mixture of 15.7 parts of ethyl 4-[[[[4-(cyclopropylamino)-5-pyrimidinyl]amino]thioxomethyl]amino]-1-piperidinecarboxylate, 20 parts of mercury(II) oxide, 40 parts of ethanol and 135 parts of N,N-dimethylacetamide was stirred overnight at 80° C. The reaction mixture was filtered over diatomaceous earth while hot. The filtrate was poured into water and the product was extracted with dichloromethane. The organic layer was dried, filtered and evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 2.2 parts (14.1%) of ethyl 4-[(9-cyclopropyl-9H-purin-8-yl)amino]-1-piperidinecarboxylate; mp. 177.0° C. (compound 17).

reactant | ethyl 4-[[[[4-(cyclopropylamino)-5-pyrimidinyl]amino]thioxomethyl]amino]-1-piperidinecarboxylate | C1(CC1)NC1=NC=NC=C1NC(=S)NC1CCN(CC1)C(=O)OCC | C16H24N6O2S
reactant | ethanol | C(C)O | C2H6O
catalyst | mercury(II) oxide | [Hg]=O
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | ethyl 4-[(9-cyclopropyl-9H-purin-8-yl)amino]-1-piperidinecarboxylate | 14.1% | C1(CC1)N1C2=NC=NC=C2N=C1NC1CCN(CC1)C(=O)OCC | C16H22N6O2
